US07531532B2
4-(1-Methylazetidin-3-yl)piperazine-1-carboxylic acid [4-(4-amino-2-fluorophenoxy)pyridin-2-yl]amide
To a solution of 4-(1-methyl-azetidin-3-yl)piperazine-1-carboxylic acid [4-(2-fluoro-4-nitrophenoxy)pyridin-2-yl]amide (121 mg) in tetrahydrofuran (50 ml) was added 20% palladium hydroxide carbon (91.3 mg), followed by stirring under a hydrogen atmosphere at room temperature for 12 hrs. The reaction mixture was filtered to remove the catalyst, and the catalyst was washed with tetrahydrofuran:methanol=1:1. The filtrate was concentrated to provide the titled compound (113 mg, 100%) as a yellow amorphous substance.

reactant | 4-(1-methyl-azetidin-3-yl)piperazine-1-carboxylic acid [4-(2-fluoro-4-nitrophenoxy)pyridin-2-yl]amide | 121 mg | FC1=C(OC2=CC(=NC=C2)NC(=O)N2CCN(CC2)C2CN(C2)C)C=CC(=C1)[N+](=O)[O-] | C20H23FN6O4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | palladium hydroxide carbon | 91.3 mg | [C+4].[OH-].[Pd+2].[OH-].[OH-].[OH-].[OH-].[OH-]
product | 4-(1-Methylazetidin-3-yl)piperazine-1-carboxylic acid [4-(4-amino-2-fluorophenoxy)pyridin-2-yl]amide | 113 mg, 100% | NC1=CC(=C(OC2=CC(=NC=C2)NC(=O)N2CCN(CC2)C2CN(C2)C)C=C1)F | C20H25FN6O2
